US07790720B2
A suspension of piperidine (90 μl, 0.86 mmol, 1.1 eq) and potassium carbonate (0.43 g, 3 mmol, 4 eq) in acetonitrile (5 ml) is treated dropwise with a solution of ethyl 4-(bromomethyl)-2-[4-(3-chloropropoxy)phenyl]-1,3-oxazole-5-carboxylate i93 (0.30 g, 0.77 mmol, 1 eq) in acetonitrile (2 ml) and is stirred at room temperature overnight. Diethyl ether is then added and the solution is washed with water, dried over magnesium sulfate and concentrated under reduced pressure to give 210 mg of crude ethyl 2-[4-(3-chloropropoxy)phenyl]-4-(piperidin-1-ylmethyl)-1,3-oxazole-5-carboxylate i95, used as such in the next step.

reactant | piperidine | 0.86 mmol, 90 μl, 1.1 eq | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 3 mmol, 0.43 g, 4 eq | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-(bromomethyl)-2-[4-(3-chloropropoxy)phenyl]-1,3-oxazole-5-carboxylate | BrCC=1N=C(OC1C(=O)OCC)C1=CC=C(C=C1)OCCCCl | C16H17BrClNO4
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | ethyl 2-[4-(3-chloropropoxy)phenyl]-4-(piperidin-1-ylmethyl)-1,3-oxazole-5-carboxylate | 210 mg, Yield: 69% | ClCCCOC1=CC=C(C=C1)C=1OC(=C(N1)CN1CCCCC1)C(=O)OCC | C21H27ClN2O4
